US07115751B2
15 ml of acetonitrile was poured into a 200 ml three-neck flask, and 1.61 g of indole-5-carboxylic acid was dissolved therein. On the other hand, preparation of an oxidant solution was performed by dissolving 47.4 g of cupric tetrafluoroborate n-hydrate (Cu content: 20%) in 100 ml of acetonitrile and agitating the mixture for 15 minutes. pH of the reaction solution was less than 1. Then the prepared oxidant solution was dripped over 60 minutes into the indole-5-carboxylic acid solution, and the resultant mixture solution was agitated for 5 hours at the temperature of 30° C. Color of the reaction solution changed from yellow to blue-green with slight heat generation. After the end of the reaction, the reaction liquid was suction-filtered with a perforated funnel, and the filtrate was washed with acetonitrile and then methanol, and was dried to obtain 1.43 g of 6,11-dihydro-5H-diindolo [2,3-a:2′,3′-c]carbazole-2,9,14-tricarboxylic acid (indole-5-calboxylic acid trimer) with a blue-green color (yield: 89%). The resultant trimer was pressure-molded with a tablet molding machine and the mold was cut into a piece with the diameter of 10 mm and thickness of 1 mm. A conductivity thereof was measured by the four terminal method, and found to be 0.40 S/cm. The result of elemental analysis was: <C9.00H4.95N0.98O1.99Cl0.13>3.

reactant | indole-5-carboxylic acid | 1.61 g | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 6,11-dihydro-5H-diindolo [2,3-a:2′,3′-c]carbazole-2,9,14-tricarboxylic acid | 1.43 g, yield: 89% | C1=C2C3=C4C(=C5C(=C3NC2=CC=C1C(=O)O)NC=1C=CC(=CC15)C(=O)O)NC=1C=CC(=CC14)C(=O)O | C27H15N3O6
